US06080785
a) 1-Benzyl-1,4,7-triazaheptane
A stirred solution of 108.26 ml (998 mmol) of 1,4,7-triaza-heptane in 750 absolute methanol is mixed at 0° C. drop by drop with a solution of 20.0 g (188 mmol) of benzaldehyde in 100 ml of absolute methanol. After a reaction time of 2 hours at 0° C., it is mixed in portions with a total of 7.13 g (188 mmol) of sodium borohydride and stirred for another 12 hours at 25° C. For working-up, the reaction mixture is filtered on diatomaceous earth, and the solvent is drawn off in a vacuum. The remaining oily residue is mixed with dichloromethane (250 ml) and water (250 ml) and extracted. After extraction of the aqueous phase is again performed with dichloromethane, the combined organic phases are dried on sodium sulfate, filtered, and the solvent is drawn off in a vacuum. The residue is chromatographed on silica gel (eluant: methanol/aqueous ammonia solution 20/1).

reactant | 1,4,7-triaza-heptane | 998 mmol, 108.26 ml | NCCNCCN | C4H13N3
reactant | benzaldehyde | 188 mmol, 20.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 188 mmol, 7.13 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-Benzyl-1,4,7-triazaheptane | C(C1=CC=CC=C1)NCCNCCN | C11H19N3
